Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pneumonia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history of asthma, SVT,  ITP, Vitamin B12 deficieny, anemia who
presented to ___ with 9 days of persistent fevers, 
chills,
cough and some dyspnea on exertion not getting better after a
course of ___. (Of note, Mr ___ DOES NOT have a h/o
melanoma but multiple notes state that he does.) CXR at ___ with
RUL infiltrate with cavitary lesion concerning for lung abscess
with PNA after influenza like illness. ? TB. 
9 days ago on ___ he felt ill. The next evening he had a
temperature of 101.5 with an occasional malodorous dry cough. He
saw on an online doctor on ___ who recommended ___ 
___.
He then saw his PCP who prescribed ___. Given that he
continued to fell unwell he went to ___. He reports pain in his R
upper back with cough and deep breathing. + DOE. He lives alone.
He has never been in prison or military barracks. He last
traveled outside of the country in ___ to ___. 
+ nausea resolved. + constipation - last bm this am but it was
small. No emesis. He took a laxative yesterday. No dysuria. No
sore throat or runny. Cough has improved. ___ lb weight loss. 
.
ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
.
ED course:
VS in ED: 5 |99.1 |111 |117/66 |20 |98% RA |
He received:
___ 18:46 IV CefTRIAXone 1 g 
___ 18:46 IVF  NS 1000 mL 
___ 19:14 IV Azithromycin 500 mg (1h ___  
___ 20:41 PO Benzonatate 100 mg ___  
___ 20:51 IV MetroNIDAZOLE 500 mg ___ 

 
Past Medical History:
THROMBOCYTOPENIA                                                
B12 DEFICIENCY ANEMIA                                           
THROMBOCYTOPENIA                                                
SUPRAVENTRICULAR TACHYCARDIA-AVRT/AVNRT
ERECTILE DYSFUNCTION                                            
GASTROESOPHAGEAL REFLUX                                         
ANXIETY                                                         
H/O CONDYLOMA ACUMINATA  
CHRONIC RHINITIS
TOBACCO ABUSE
RECURRENT SHORTNESS OF BREATH WITH CXR FLATTENING WITH MILD
OBSTRUCTION 

 
Social History:
___
Family History:
-Father: CVA, carotid stenosis, melanoma.
-Brother: ___.
-Sister: ___ kidney disease.
-Grandfather: ___ cancer.
 
Physical Exam:
Vital Signs:
24 HR Data (last updated ___ @ 811)
    Temp: 98.2 (Tm 98.8), BP: 111/68 (111-117/68-69), HR: 82
(82-88), RR: 18, O2 sat: 96% (96-99), O2 delivery: Ra  
Physical Exam:

GENERAL: Pleasant man in hospital bed, in no apparent distress.
EYES: PERRL. EOMI. Anicteric sclerae. 
ENT: Ears and nose without visible erythema, masses, or trauma. 
Posterior oropharynx without erythema or exudate, uvula midline.
CV: Regular rate and rhythm. Normal S1 S2, no S3, no S4. No
murmur. No JVD.
PULM: Breathing comfortably on room air. Clear to auscultation 
in
all fields. No wheezes or crackles. Good air movement
bilaterally. 
GI: Bowel sounds present. Abdomen non-distended, soft, 
non-tender
to palpation. No HSM appreciated.
GU: No suprapubic fullness or tenderness to palpation.
EXTR: No lower extremity edema. Distal extremity pulses palpable
throughout.
SKIN: Mildly puritic erythematous papular rash on back. No
ulcerations, scars noted.
NEURO: Alert. Oriented to person/place/time/situation. Face
symmetric. Gaze conjugate with EOMI. Speech fluent. Moves all
limbs spontaneously. No tremors, asterixis, or other involuntary
movements observed. Normal and symmetric distal extremity
strength and light touch sensation throughout. 
PSYCH: Pleasant, cooperative. Follows commands, answer questions
appropriately. Appropriate affect.
 
Pertinent Results:
Labs:
CBC- WBC 8.5, Hgb 12.2 both stable
Chem- Glu 135, Cr 0.8, K 4.2
Vit B12 400, CRP 105.2, HIV Ab neg

Micro:
___ UA unremarkable
___ Ucx NEG
___ Bcx x 2 NGTD

Images and studies:
___ CT chest with IV contrast:
1. Large posterior right upper lobe parenchymal opacification
with a 3.0 cm central rim enhancing fluid collection with
intraluminal air is concerning for intrapulmonary abscess.
2. 5 mm right lower lobe pulmonary nodule. Follow up as 
described
below.
3. Prominent subcarinal lymph nodes measure up to 9 mm in short
axis. For incidentally detected single solid pulmonary nodule
smaller than 6 mm, no  CT follow-up is recommended in a low-risk
patient, and an optional CT in 12 months is recommended in a
high-risk patient.

Prior studies:

___ PFTs:
FEV1 = 4.72 (120%)
FVC = 4.99 (113%)
FEV/FVC = 0.79 = 107% PRED

___ TTE
IMPRESSION: Normal LV size and systolic function (eEF 57%). Mild
mitral
regurgitation. Negative bubble study at rest and with maneuvers. 


 
Brief Hospital Course:
Mr. ___ is a ___ ___ with a past medical 
history of SVT, asthma/COPD (25 pack yr hx, quit ___, ITP, 
B12 deficiency, on PREP who presented ___ with fevers, cough, 
and chills and found to have right upper lobe necrotizing 
bacterial pneumonia.

He was evaluated by interventional pulmonary medicine who felt 
antibiotics was enough, probably didn't need drainage of a 
likely 3-cm pulmonary abscess in the right upper lobe. Mr. 
___ responded well to ceftriaxone, azithromycin, and 
metronidazole. Kept inpatient for a night for observation, by 
___ he was feeling improved. He was sent home with 
prescriptions for of cefpodoxime 200mg BID, azithromycin 250mg 
daily, and metronidazole 500mg TID to be taken for 10 more days. 
A ___ clinic appointment at ___ was set up for ___. Of 
note, imaging showed a 5-mm pulmonary nodule which had been 
previously seen and is probably low risk but given his smoking 
history we recommended further discussion with the ___ doc 
about potential 12-month follow-up chest CT; both pt and his 
mother confirmed understanding.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID:PRN nasal 
congestion 
4. LORazepam 0.5 mg PO DAILY:PRN anxiety 
5. Metoprolol Tartrate 25 mg PO BID:PRN tachycardia 
6. Cialis (tadalafil) 10 mg oral DAILY:PRN 
7. Montelukast 10 mg PO DAILY 
8. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
9. Cyanocobalamin ___ mcg PO DAILY 
10. Fexofenadine 180 mg PO DAILY:PRN allergy sx 
11. Tessalon Perles (benzonatate) 100 mg oral Q8H:PRN 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 10 Days 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*10 
Tablet Refills:*0 
2.  Cefpodoxime Proxetil 200 mg PO BID Duration: 10 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice daily Disp 
#*20 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO TID Duration: 10 Days 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times daily 
Disp #*30 Tablet Refills:*0 
4.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
5.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob  
6.  Cialis (tadalafil) 10 mg oral DAILY:PRN  
7.  Cyanocobalamin ___ mcg PO DAILY  
8.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
9.  Fexofenadine 180 mg PO DAILY:PRN allergy sx  
10.  Fluticasone Propionate NASAL 1 SPRY NU BID:PRN nasal 
congestion  
11.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
12.  Metoprolol Tartrate 25 mg PO BID:PRN tachycardia  
13.  Montelukast 10 mg PO DAILY  
14.  Tessalon Perles (benzonatate) 100 mg oral Q8H:PRN 
RX *benzonatate 100 mg 1 capsule(s) by mouth Every ___ hours 
Disp #*30 Capsule Refills:*5 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

You were admitted for pneumonia and fortunately improved with 
antibiotics.

You are being discharged with antibiotics. Please fill the 
prescriptions and complete these medications as prescribed. We 
are also prescribing cough drops. You are also being set up with 
a clinic visit with pulmonary medicine ___ at 2pm on the ___ 
campus on the first floor of the ___ building in the ___ 
___ with Dr. ___.
 
If you have new persistent fevers, shortness of breath, you 
should let your primary care doctor know or come to the 
hospital. Please note it may take weeks for the cough to clear.

Note that your x-ray shows a 5-mm lung nodule. For low-risk 
individuals we recommend typically no follow-up for this since 
it's so unlikely to be of any concern. Given your prior smoking 
history, it might be worth getting a repeat chest CT in 12 
months. Do ask the pulmonary medicine doctor about this to get 
their input.

Sincerely,
Your ___ Team
 
Followup Instructions:
___